US06166069
[4-(2-Benzyl-benzofuran-3-carbonyl)-2,6-diiodo-phenoxy]-acetic acid
This compound was prepared from (2-benzyl-benzofuran-3-yl)-(3,5-diiodo-4-hydroxy-phenyl)-methanone and tert-butyl bromoacetate in substantially the same manner, as described in Example 2. Formic acid was used in the place of trifluoroacetic acid. The product was obtained as an off-white solid, mp 144-146° C.; MS m/e 638 (M+); Analysis for: C24H16I2O5Calc'd: C, 45.17; H, 2.53 Found: C, 44.19; H, 2.42

reactant | (2-benzyl-benzofuran-3-yl)-(3,5-diiodo-4-hydroxy-phenyl)-methanone | C(C1=CC=CC=C1)C=1OC2=C(C1C(=O)C1=CC(=C(C(=C1)I)O)I)C=CC=C2 | C22H14I2O3
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | Formic acid | C(=O)O | CH2O2
product | [4-(2-Benzyl-benzofuran-3-carbonyl)-2,6-diiodo-phenoxy]-acetic acid | C(C1=CC=CC=C1)C=1OC2=C(C1C(=O)C1=CC(=C(OCC(=O)O)C(=C1)I)I)C=CC=C2 | C24H16I2O5
